datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][NH:10]C(CC)C(C)C(C)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(CC)C(C)C(C)[NH]1)[C:20]1([NH:21]CC)[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[NH]C(C)C(C8=CC=CC=C8)[NH]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21][H])[NH]C(C)C(C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"[H][O:10]C(CC)C(C8=CC=CC=C8)[NH][C:20]([O]CC)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C)[O]CC 10=20;20,21=21"
"[H]C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]CCCCCC)C1=CC=CC=C1)CC>>[H]C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)C1=CC=CC=C1)CC.[O-:21]CCCCCC 10=20;20,21=21"
"[H][NH+:10](C([H])C(C)C([H])[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O][H].[Cl-]>>[Cl-].[H][NH:10]C([H])C(C)C([H])[O][C:20]([O][H])=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]CC)[O][CH](C)C(C)[CH]([H])[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O][CH](C)[CH](C)C([H])[O]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"[H][NH+:10](C(CC)C([H])[NH]1)[C:20]1([NH:21]C)[O]CC.[Cl-]>>[Cl-].[H][NH:10]C(CC)C([H])[NH][C:20]([O]CC)=[NH+:21]C 21=20;20,10=10"
"[H][S:10]C(C9=CC=CC=C9)C(C)C([H])[S][C:20]([O]C7=CC=CC=C7)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(C9=CC=CC=C9)C(C)C([H])[S]1)[C:20]1([O:21]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[O]C(C)C(C)[O]1.[Cl-]>>[Cl-].[Si](C)(C)(C)[O+:21]=[C:20]2[O]C(C)C(C)[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[OH:21][CH:20]2(OC)C3=C(C(C([OH+:10]2)[H])[H])C=CC=C3>>[OH:10]C(C(C1=C(C=CC=C1)[CH:20](OC)=[OH+:21])[H])[H] 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C(C)[NH][C:20]([O]CC)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]CC 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([O:21][H])[S][CH](C7=CC=CC=C7)C([H])[CH](C)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S][CH](C7=CC=CC=C7)[CH]([H])C(C)[S]2.[H][O:10][H] 21=20;20,10=10"
"[O-:21][C:20]1(OCC)[NH+:10](C)C([H])C(O)C1O>>[NH:10](C)C([H])C(O)C([C:20](OCC)=[O:21])O 21=20;20,10=10"
"[H][O+:10](C(CC)C(CC)[O]1)[C:20]1([O:21][H])[S][H].[Cl-]>>[Cl-].[H][O:10]C(CC)C(CC)[O][C:20]([S][H])=[O+:21][H] 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C(C8=CC=CC=C8)[S][C:20]([S]CC)=[O+:21][Si](C)(C)(C).[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21][Si](C)(C)(C))[S]CC 10=20;20,21=21"
"CC[O+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([NH]C)[NH]CC.[Cl-]>>[Cl-].CC[O:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([NH]C)[NH]CC 21=20;20,10=10"
"C1(C(O[C:20]([O-:10])([O:21]C1C1=CC=CC=C1)O[H])C)[H]>>C(C([O-:21])C1=CC=CC=C1)(C(O[C:20](=[O:10])O[H])C)[H] 10=20;20,21=21"
"[O-:21][C:20]1(OCC)C([H])C([H])=C(C)C([H])[NH+:10]1([H])>>[NH:10]([H])C([H])/C(C)=C([H])\C([H])[C:20](OCC)=[O:21] 21=20;20,10=10"
"[H][O:10]C(C)C([H])[S][C:20]([S]C7=CC=CC=C7)=[O+:21][Si](C)(C)(C).[Cl-]>>[Cl-].[H][O+:10](C(C)C([H])[S]1)[C:20]1([O:21][Si](C)(C)(C))[S]C7=CC=CC=C7 10=20;20,21=21"
"[H][NH+:10](C(C9=CC=CC=C9)C(CC)[O]1)[C:20]1([NH:21][H])[O][H].[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C(CC)[O][C:20]([O][H])=[NH+:21][H] 21=20;20,10=10"
"C[NH+:10]([H])[C:20]1([NH:21]C)[O][CH](CC)C(C)[CH]([H])[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O][CH](CC)[CH](C)C([H])[O]2.C[NH:10][H] 21=20;20,10=10"
"C[O:10][H].CC[NH+:21]=[C:20]([NH][H])[NH][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]([NH:21]CC)([NH][H])[NH][H] 10=20;20,21=21"
"[O-:21][C:20]1(OCC)[O+:10]([Na])C([H])C([H])C1O>>[O:10]([Na])C([H])C([H])C([C:20](OCC)=[O:21])O 21=20;20,10=10"
"[H][NH:10]C([H])C([H])C(C)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C([H])C([H])C(C)[NH]1)[C:20]1([NH:21]CC)[O]C7=CC=CC=C7 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH]C(CC)C([H])[NH]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH]C(CC)C([H])[NH]1 10=20;20,21=21"
"[H][O+:10]([H])[C:20]([NH:21]C)([O]C)[NH][H].[Cl-]>>[Cl-].[H][O:10][H].C[NH+:21]=[C:20]([O]C)[NH][H] 21=20;20,10=10"
"[H][O:10]C([H])C(C)C([H])[O][C:20]([NH][H])=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C([H])C(C)C([H])[O]1)[C:20]1([NH:21][H])[NH][H] 10=20;20,21=21"
"[O-:10]C(CCC)C(C)C([C:20](OC)=[O:21])[H]>>[O-:21][C:20]1(OC)[O:10]C(CCC)C(C)C1[H] 10=20;20,21=21"
"CC1C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]C1=CC=CC=C1)[H]>>CC1C(O[C:20](=[O:10])N1C1=CC=CC=C1)[H].[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"[H][O+:21]=[C:20]2[S]C(C)C(C)[S]2.[H][S:10][H].[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]1([O:21][H])[S]C(C)C(C)[S]1 10=20;20,21=21"
"[H][O:10]C(CC)C([H])C(C8=CC=CC=C8)[O][C:20]([O]CC)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(CC)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21][H])[O]CC 10=20;20,21=21"
"[H][S+:10](C(C9=CC=CC=C9)C(C)C(CC)[O]1)[C:20]1([O:21][H])[O]CC.[Cl-]>>[Cl-].[H][S:10]C(C9=CC=CC=C9)C(C)C(CC)[O][C:20]([O]CC)=[O+:21][H] 21=20;20,10=10"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])CC)C)CC)[H]>>C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)CC)C)CC)[O-:10])[H] 21=20;20,10=10"
"C[S+:10]([H])[C:20]1([O:21][H])[S][CH](C7=CC=CC=C7)C(C)[CH](C)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S][CH](C7=CC=CC=C7)[CH](C)C(C)[S]2.C[S:10][H] 21=20;20,10=10"
